US08067445B2
Step 1: 4-Fluorobenzyl Chloroformate
Prepared according to the procedure described in Example 56, Step 1, using the following starting materials: 4-fluorobenzyl alcohol and phosgene (20% in toluene).

reactant | 4-fluorobenzyl alcohol | FC1=CC=C(CO)C=C1 | C7H7FO
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
product | 4-Fluorobenzyl Chloroformate | ClC(=O)OCC1=CC=C(C=C1)F | C8H6ClFO2
